US04258055
122 g of Salicylaldehyde and 136 g of 4-hydroxy-acetophenone were dissolved in a four-necked one-liter flask equipped with a mechanical stirrer and containing 400 ml of anhydrous ethyl acetate. Under agitation and at room temperature, a stream of dry hydrochloric acid was passed into the solution in such manner that saturation was completed in the course of one hour. The mixture was left under agitation for 24 hours, during which precipitation of the reaction product began. Filtration was carried out, the product dried at 40° C. in the presence of KOH and recrystallisation carried out twice from methanol. There were obtained 179 g of 4'-hydroxyflavylium chloride.

reactant | Salicylaldehyde | 122 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 4'-hydroxyflavylium chloride | 179 g | [Cl-].OC1=CC=C(C2=[O+]C3=CC=CC=C3C=C2)C=C1 | InChI=1S/C15H10O2.ClH/c16-13-8-5-12(6-9-13)15-10-7-11-3-1-2-4-14(11)17-15;/h1-10H;1H
